US06872834B2
Step A Preparation of 4-(3-chloropropoxy)benzaldehyde
A solution of 4-hydroxybenzaldehyde (100 mmol, 12.2 g), 3-bromopropionyl chloride (101 mmol, 20 mL) and potasium carbonate (20.7 g, 150 mmol) in acetone (250 mL) was heated at reflux for overnight. The salt was filtered off. The solvent was evaporated. Reduced pressure distillation provided the title compound (15 g).

reactant | 4-hydroxybenzaldehyde | 100 mmol, 12.2 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 3-bromopropionyl chloride | 101 mmol, 20 mL | BrCCC(=O)Cl | C3H4BrClO
reactant | potasium carbonate | 150 mmol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 4-(3-chloropropoxy)benzaldehyde | 15 g | ClCCCOC1=CC=C(C=O)C=C1 | C10H11ClO2
